US08865726B2
(S)—N—((S)-2-(tert-butyldimethylsilyloxy)-1-(4-methylpyridin-2-yl)ethyl)-2-methylpropane-2-sulfinamide (1.10 g, 2.97 mmol) was dissolved in MeOH (15 ml), and treated with 3.7 ml of a 4.0 M hydrogen chloride solution in dioxane. The reaction was stirred at ambient temperature for 2 hours, concentrated to dryness, and stored under high vacuum overnight to provide 0.71 g (106%) of crude (S)-2-amino-2-(4-methylpyridin-2-yl)ethanol dihydrochloride which was used directly in the next step.

reactant | (S)—N—((S)-2-(tert-butyldimethylsilyloxy)-1-(4-methylpyridin-2-yl)ethyl)-2-methylpropane-2-sulfinamide | 2.97 mmol, 1.10 g | [Si](C)(C)(C(C)(C)C)OC[C@H](C1=NC=CC(=C1)C)N[S@@](=O)C(C)(C)C | C18H34N2O2SSi
reactant | hydrogen chloride | 4.0 M | Cl | ClH
solvent | MeOH | 15 ml | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (S)-2-amino-2-(4-methylpyridin-2-yl)ethanol dihydrochloride | 0.71 g, 106% | Cl.Cl.N[C@H](CO)C1=NC=CC(=C1)C | InChI=1S/C8H12N2O.2ClH/c1-6-2-3-10-8(4-6)7(9)5-11;;/h2-4,7,11H,5,9H2,1H3;2*1H/t7-;;/m1../s1
